US05623073
STEP A: 2,9-Dimethyl-3-trichloroacetylimidazo[1,2-a]benzimidazole
Pour 5.45 g (30 mmol) of freshly distilled trichloroacetyl chloride dropwise into a boiling solution of 2,9-dimethylimidazo[1,2-a]benzimidazole (3.7 g; 20 mmol)--obtained as described in Khim. Geterotsikl Soedin, 86, (7), 918-925--in 50 ml of xylene, with vigorous stirring, over a period of 20 to 30 minutes. The mixture is then heated at reflux for two hours until the product which has initially precipitated is completely dissolved. Cool and filter. Concentrate the mother liquors and add petroleum ether. Combine with the precipitate obtained earlier and repeat the operation. The combined precipitates are treated with an aqueous solution of sodium hydrogen carbonate and then recrystallised from ethyl acetate.

reactant | trichloroacetyl chloride | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 2,9-dimethylimidazo[1,2-a]benzimidazole | 20 mmol, 3.7 g | CC=1N=C2N(C3=C(N2C1)C=CC=C3)C | C11H11N3
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,9-Dimethyl-3-trichloroacetylimidazo[1,2-a]benzimidazole | CC=1N=C2N(C3=C(N2C1C(C(Cl)(Cl)Cl)=O)C=CC=C3)C | C13H10Cl3N3O
